US04021441
In the manner given in Example 1, potassium iodide and 1-(chloromethyl)-6-(o-chlorophenyl)-4H-s-triazolo-[4,3-a][1,4]benzodiazepine in tetrahydrofuran is treated with cyclopropylamine to give 1-[(cyclopropylamino)-methyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]-benzodiazepine.

reactant | potassium iodide | [I-].[K+]
reactant | 1-(chloromethyl)-6-(o-chlorophenyl)-4H-s-triazolo-[4,3-a][1,4]benzodiazepine | ClCC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=CC=C1 | C17H12Cl2N4
reactant | cyclopropylamine | C1(CC1)N | C3H7N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-[(cyclopropylamino)-methyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]-benzodiazepine | C1(CC1)NCC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=CC=C1 | C20H18ClN5
